US05019587
2,3-Dihydro-1,3,3-trimethyl-N-phenyl-2-oxo-(1H)-indole-6-carboxamide
2.8 g. (10 mmol) 2,3-Dihydro-3,3-dimethyl-N-phenyl-2-oxo-(1H)-indole-6-carboxamide, 2.8 g. (20 mmol) methyl iodide and 2.5 g. (20 mmol) potassium carbonate were stirred in 50 ml. dimethylformamide for 3 hours at 70° C. After cooling, the reaction mixture was mixed with water, decanted and again mixed with water. The residue was purified by column chromatography (RP-18, methanol:water:ammonium hydroxide 80:20:1 v/v/v). Pure fractions were evaporated until the commencement of crystallisation, subsequently filtered off with suction and washed with water. There were obtained 2.3 g. (78% of theory) of the title compound; m.p. 184-186° C.

reactant | 2,3-Dihydro-3,3-dimethyl-N-phenyl-2-oxo-(1H)-indole-6-carboxamide | 10 mmol | CC1(C(NC2=CC(=CC=C12)C(=O)NC1=CC=CC=C1)=O)C | C17H16N2O2
reactant | methyl iodide | 20 mmol | CI | CH3I
reactant | potassium carbonate | 20 mmol | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylformamide | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 2,3-Dihydro-1,3,3-trimethyl-N-phenyl-2-oxo-(1H)-indole-6-carboxamide | CN1C(C(C2=CC=C(C=C12)C(=O)NC1=CC=CC=C1)(C)C)=O | C18H18N2O2
